US09399639B2
Step 2) 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl isopropyl carbonate
The title compound was prepared according to the procedure as described in Example 26 step 2 using N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide (0.3 g, 0.61 mmol), KOH (69 mg, 1.23 mmol) in anhydrous DMF (2 mL), a solution of TBAB (396 mg, 1.23 mmol) in anhydrous DMF (0.5 mL) and a solution of 1-chloroethyl isopropyl carbonate (101 mg, 0.61 mmol) in anhydrous DMF (0.5 mL). The crude product was purified by a silica gel column chromatography (PE/EtOAc (v/v)=5/1), and recrystallized in methanol to afford the title compound as a white solid (42 mg, 11.1%). The title compound was characterized by LC-MS and 1H NMR as shown below:

reactant | N-(3-(5-(4-chlorophenyl)-1H-pyrrolo[2,3-b]pyridine-3-carbonyl)-2,4-difluorophenyl)propane-1-sulfonamide | 0.61 mmol, 0.3 g | ClC1=CC=C(C=C1)C=1C=C2C(=NC1)NC=C2C(=O)C=2C(=C(C=CC2F)NS(=O)(=O)CCC)F | C23H18ClF2N3O3S
reactant | KOH | 1.23 mmol, 69 mg | [OH-].[K+]
reactant | 1-chloroethyl isopropyl carbonate | 0.61 mmol, 101 mg | C(OC(C)Cl)(OC(C)C)=O | C6H11ClO3
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | TBAB | 1.23 mmol, 396 mg | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-(5-(4-chlorophenyl)-3-(2,6-difluoro-3-(propylsulfonamido)benzoyl)-1H-pyrrolo[2,3-b]pyridin-1-yl)ethyl isopropyl carbonate | 42 mg, 11.1% | C(OC(C)N1C=C(C=2C1=NC=C(C2)C2=CC=C(C=C2)Cl)C(C2=C(C(=CC=C2F)NS(=O)(=O)CCC)F)=O)(OC(C)C)=O | C29H28ClF2N3O6S
